US09260452B2
Synthesis of 5-(pyridin-2-yl)oxazole
A mixture of picolinaldehyde (2.3 g, 42.6 mmol), TosMIC (4.4 g, 45.2 mmol) and K2CO3 (3.4 g, 48.8 mmol) in methanol (70 mL) was reflux for 2 h. The reaction was cooled to room temperature, then the mixture was concentrated and purified by silica gel column chromatography to give the desired product (3.05 g).

reactant | picolinaldehyde | 42.6 mmol, 2.3 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | TosMIC | 45.2 mmol, 4.4 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | K2CO3 | 48.8 mmol, 3.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 70 mL | CO | CH4O
product | 5-(pyridin-2-yl)oxazole | 3.05 g | N1=C(C=CC=C1)C1=CN=CO1 | C8H6N2O
